US05629432
Diethyl α-phenyl-α-(2-acetoxyethyl)malonate
A solution of potassium tert.butoxide (448 g, 4M) in DMF (2 l) under nitrogen at room temperature was treated dropwise with diethyl phenylmalonate (945 g, 4M). 1-Acetoxy-2-bromoethane (668 g, 4M) was added. The reaction was allowed to cool to room temperature after 45 mins and was diluted with water (5 l) then extracted with IPE (2 l, 500 ml). The extracts were washed, dried and evaporated to give the title compound (1300 g). Bp 130°/0.05 mm.

reactant | potassium tert.butoxide | 4M, 448 g | CC(C)([O-])C.[K+]
reactant | diethyl phenylmalonate | 4M, 945 g | C1(=CC=CC=C1)C(C(=O)OCC)C(=O)OCC | C13H16O4
reactant | 1-Acetoxy-2-bromoethane | 4M, 668 g | C(C)(=O)OCCBr | C4H7BrO2
solvent | DMF | 2 l | CN(C)C=O | C3H7NO
solvent | water | 5 l | O | H2O
product | Diethyl α-phenyl-α-(2-acetoxyethyl)malonate | 1300 g | C1(=CC=CC=C1)C(C(=O)OCC)(C(=O)OCC)CCOC(C)=O | C17H22O6
